US06858627B2
4-Allylsulfanylmethyl-6-dibenzofuran-4-yl-2,2-dimethyl-1,2-dihydroquinoline
Trifluoromethanesulfonic acid 2,2,4-trimethyl-1,2-dihydroquinolin-6-yl ester was coupled with 4-dibenzofuranboronic acid. Bromination and coupling reaction with allyl mercaptan gave 52 mg of the title compound.

reactant | Trifluoromethanesulfonic acid 2,2,4-trimethyl-1,2-dihydroquinolin-6-yl ester | CC1(NC2=CC=C(C=C2C(=C1)C)OS(=O)(=O)C(F)(F)F)C | C13H14F3NO3S
reactant | 4-dibenzofuranboronic acid | C1=CC=C(C=2OC3=C(C21)C=CC=C3)B(O)O | C12H9BO3
reactant | allyl mercaptan | C(C=C)S | C3H6S
product | 4-Allylsulfanylmethyl-6-dibenzofuran-4-yl-2,2-dimethyl-1,2-dihydroquinoline | 52 mg | C(C=C)SCC1=CC(NC2=CC=C(C=C12)C1=CC=CC2=C1OC1=C2C=CC=C1)(C)C | C27H25NOS
